US07528262B2
4-(2-Methylindol-1-yl)phenol.
1-(4-Methoxyphenyl)-2-methyl-1H-indole (175 mg, 0.73 mmol) was dissolved in dichloromethane (2 mL) and cooled to 0° C. Boron tribromide (2.19 mL, 1 M solution in dichloromethane, 2.19 mmol) was added dropwise, and the reaction was stirred for 2 hours. The reaction was quenched by addition of saturated sodium bicarbonate solution, then extracted with dichloromethane followed by ethyl acetate. The organic extracts were dried over MgSO4 and concentrated. The reaction was assumed to be quantitative. LC-MS (C15H13NO calc'd 223) m/z 224 (M+H).

reactant | 1-(4-Methoxyphenyl)-2-methyl-1H-indole | 0.73 mmol, 175 mg | COC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C16H15NO
reactant | Boron tribromide | 2.19 mmol, 1 M, 2.19 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-(2-Methylindol-1-yl)phenol | CC=1N(C2=CC=CC=C2C1)C1=CC=C(C=C1)O | C15H13NO
